US09402833B2
10% Pd/C (400 mg) was added to a solution of 7-fluoro-5-nitro-2,3-dihydrobenzo[b][1,4]dioxine (2.0 g, 10 mmol) in methanol (50 mL) and stirring was continued at 25° C. under H2 atmosphere for 3 h. The reaction mixture was filtered over celite bed and washed with methanol. The filtrate and the washings were concentrated under reduced pressure to afford 7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-amine (Int-52) as pale brown liquid. MS (ESI): m/z 170.1 (M+H).

reactant | 7-fluoro-5-nitro-2,3-dihydrobenzo[b][1,4]dioxine | 10 mmol, 2.0 g | FC=1C=C(C2=C(OCCO2)C1)[N+](=O)[O-] | C8H6FNO4
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | 7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-amine | FC=1C=C(C2=C(OCCO2)C1)N | C8H8FNO2
